US07851493B2
46.0 g Methyl 4-methoxyacetoacetate were dissolved in 500 ml dichloromethane. 28.1 ml Sulfuryl chloride were added in one portion. The reaction mixture was stirred overnight at room temperature. The solvent was removed under reduced pressure, the resulting residue was dissolved in 300 ml ethyl acetate and washed with 100 ml water and 100 ml brine. The organic layer was dried over MgSO4 and the solvent removed under reduced pressure. The resulting residue was purified by chromatography on silica gel with the eluent n-heptane:ethyl acetate=5:1=>2:1 to obtain 45.0 g 2-chloro-4-methoxy-3-oxo-butyric acid methyl ester as a yellow oil.

reactant | Methyl 4-methoxyacetoacetate | 46.0 g | COCC(CC(=O)OC)=O | C6H10O4
reactant | Sulfuryl chloride | 28.1 ml | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
product | 2-chloro-4-methoxy-3-oxo-butyric acid methyl ester | 45.0 g | COC(C(C(COC)=O)Cl)=O | C6H9ClO4
